US04609396
Methyl 4-[4-(3-methyl-3-quinoxalinyloxy)phenoxy]pent-2-enoate
In a nitrogen atmosphere, add a solution of 5.4 g (0.02 mole) 2-(4-hydroxyphenoxy)-3-methylquinoxaline in 30 cc dimethylformamide to 0.9 g (0.02 mole) 57% sodium hydride in 20 cc dimethylformamide at about 20° C. When the evolution of hydrogen ceases, add 3.9 g (0.02 mole) methyl 4-bromo-2-pentenoate. Heat the reaction mixture at approximately 80° C. until the reaction is complete. Pour the reaction mixture into water and extract with ether. Combine the ethereal extracts and dry over magnesium sulfate. Removal of the ether gives the desired product.

reactant | 2-(4-hydroxyphenoxy)-3-methylquinoxaline | 0.02 mole, 5.4 g | OC1=CC=C(OC2=NC3=CC=CC=C3N=C2C)C=C1 | C15H12N2O2
reactant | sodium hydride | 0.02 mole, 0.9 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl 4-bromo-2-pentenoate | 0.02 mole, 3.9 g | BrC(C=CC(=O)OC)C | C6H9BrO2
reactant | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-[4-(3-methyl-3-quinoxalinyloxy)phenoxy]pent-2-enoate | CC1(CN=C2C=CC=CC2=N1)OC1=CC=C(OC(C=CC(=O)OC)C)C=C1 | C21H22N2O4
